US07629383B2
Thionyl chloride (14.27 g, 0.12 mmol) was added dropwise to hexanoic acid (11.61 g, 0.10 mmol) and the reaction mixture was heated at 70° C. for 24 hours. The reaction mixture containing hexanoyl chloride was not further purified and paraformaldehyde (3.60 g, 0.12 mol) was added and the reaction mixture heated at 120° C. until the latter disappeared (about 2 hours). The reaction mixture was distilled in vacuo and chloromethyl hexanoate was obtained as a colourless oil (b.p. 118° C., 25 mbar). 1H-NMR (CDCl3) δ 5.67 (s, 2H), 2.37-2.29 (m, 2H), 1.65-1.58 (m, 2H), 1.31-1.26 (m, 4H), 0.88 (t, 3H). 13C-NMR(CDCl3) δ 179.89, 171.77, 68.53, 33.95, 31.18, 24.34, 22.26, 13.83.

reactant | Thionyl chloride | 0.12 mmol, 14.27 g | S(=O)(Cl)Cl | Cl2OS
reactant | hexanoic acid | 0.10 mmol, 11.61 g | C(CCCCC)(=O)O | C6H12O2
reactant | hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
reactant | paraformaldehyde | 0.12 mol, 3.60 g | C=O | CH2O
product | chloromethyl hexanoate | C(CCCCC)(=O)OCCl | C7H13ClO2
